* C:\Users\Tyler\Desktop\2012 Rover\electrical\design\UHF_Video_TX\simulation\SPICE\X9313WSIFrequencyCompensation.asc
R1 N003 N002 312.5
R2 0 N003 9687.5
C1 0 N002 5pF Rser=0.01
C3 0 N003 7pF Rser=0.01
R3 0 N003 1mega
V1 N001 0 AC 1 Rser=75
L1 N001 N002 56µH Rser=0.5
R4 N001 N002 1.2K
* RH
* RL
.ac dec 100 1 8mega
;tran 0 0.00001 0 startup
;noise V1 V1 dec 100 1 5000000
.backanno
.end
